US06417212B1
H. 2-{4-[2-(2-Biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid
A stirred solution of 2-{4-[2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]-phenoxy}-2-methyl propionic acid ethyl ester (345.2 mg, 0.711 mmol) in ethanol (8.9 mL) was treated with NaOH(aq) (0.854 mL of a 5M solution), and heated at reflux for 1 h. The hot solution was acidified to pH 1 with 1M HCl (6 mL). The mixture was cooled to ambient temperature, then further cooled to 0° C. before filtering the product. Following washing with H2O, the product was dried under vacuum at 50° C. to yield 226.2 mg (70%) as a white, crystalline solid: Rf=0.2 in 6:4 ethyl acetate:hexanes; 1H NMR (400 MHz, CDCl3) δ8.21 (s, 1H), 7.95 (d, J=7.2 Hz, 1H), 7.64-7.62 (m, 3H), 7.48 (t, J=7.8 Hz, 1H), 7.43 (t, J=7.8 Hz, 2H), 7.35 (t, J=7.2 Hz, 1H), 6.88-6.77 (m, 4H), 4.18 (t, J=6.4 Hz, 2H), 2.99 (t, J=6.4 Hz, 2H), 2.44 (s, 3H), 1.51 (s, 6H).

reactant | 2-{4-[2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]-phenoxy}-2-methyl propionic acid ethyl ester | 0.711 mmol, 345.2 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C30H31NO5
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1M, 6 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 8.9 mL | C(C)O | C2H6O
product | 2-{4-[2-(2-Biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C)C1=CC=CC=C1 | C28H27NO5
